US05527819
2-Methyl-3-phenylthioindole (0.50 g, 2.1 mmol) (prepared according to the procedure described by Atkinson, J. G., et al., Synthesis, p. 480-481 (1988), was dissolved in dry tetrahydrofuran and cooled under nitrogen to -78° C. A solution of n-butyllithium in hexane (0.83 mL, 2.5M) was added via syringe. Carbon dioxide was bubbled into the reaction mixture over a period of several minutes; unreacted carbon dioxide was removed by freezing the reaction at liquid nitrogen temperature under high vacuum and warming to -78° C. A solution of t-butyllithium in hexane was added (1.35 mL, 1.7M) and the reaction stirred for 20 min. Phenylisocyanate (0.23 mL, 2.1 mmol) in tetrahydrofuran (1.5 mL) was added and the reaction stirred at 20° C. overnight. The reaction was diluted with water and extracted with ethyl acetate. The organic phase was washed with saturated brine and dried over magnesium sulfate. Filtration and evaporation of solvent left an amber oil. The crude products were chromatographed on silica gel eluting successively with 15%, 20%, and 40% ether in hexane. 2-(N-Phenylacetamido)-3-phenylthioindole was isolated as a solid, mp 66°-68° C. Anal. Calc. for C22H18N2OS: C, 72.98; H, 5.01; N, 7.73. Found: C, 72.99; H, 4.87; N, 7.52 . Later fractions contained 2-(N-phenylacetamido)-1-(phenylcarbamoyl)-3-phenylthioindole, mp 123°-125° C. Anal. Calc. for C29H23N3O2S: C, 70.28, H, 4.67, N, 8.47. Found: C, 70.37, H, 4.61; N, 8.34.

reactant | 2-Methyl-3-phenylthioindole | 2.1 mmol, 0.50 g | CC=1NC2=CC=CC=C2C1SC1=CC=CC=C1 | C15H13NS
reactant | n-butyllithium | C(CCC)[Li]
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | Phenylisocyanate | 2.1 mmol, 0.23 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 0.83 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(N-Phenylacetamido)-3-phenylthioindole | C1(=CC=CC=C1)N(C(C)=O)C=1NC2=CC=CC=C2C1SC1=CC=CC=C1 | C22H18N2OS
